US07041668B2
A solution of 3-phenyl propionic acid (9.7 mg) in dry dimethylformamide (0.6 ml) was treated with N-{(dimethylamino)(1H-1,2,3-triazolo[4,5-b]pyridin-1-yl)methylene}-N-methylmethanaminium hexafluorophosphate N-oxide (21 mg) and diisopropylethylamine (12 μl). After stirring at ambient temperature for 30 minutes, 4-cyclopentylamino-benzenesulfonic acid 2-amino-3H-benzoimidazol-5-yl ester (20 mg) was added and the mixture stirred at room temperature for a further 3 hours. The solvent was removed under vacuo and the residue was purified by triggered LC/MS to give 4-cyclopentylamino-benzenesulfonic acid 2-(3-phenyl-propionylamino)-1H-benzoimidazol-5-yl ester as an off-white solid (11 mg). Mass spectrum: 505 [M+H]+; retention time=4.59 minutes.

reactant | 3-phenyl propionic acid | 9.7 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | diisopropylethylamine | 12 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-cyclopentylamino-benzenesulfonic acid 2-amino-3H-benzoimidazol-5-yl ester | 20 mg | NC=1NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NC2CCCC2 | C18H20N4O3S
solvent | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | 4-cyclopentylamino-benzenesulfonic acid 2-(3-phenyl-propionylamino)-1H-benzoimidazol-5-yl ester | 11 mg | C1(=CC=CC=C1)CCC(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NC2CCCC2 | C27H28N4O4S
